*SPICE model for iNA01100  
.SUBCKT INA01100     OUT      IN      GND
*Package
LIN      IN       1      .35NH
LOUT     OUT      3      .35NH
LGND     GND      2      .1NH
*end package
* CALL DIE MODEL
XDIE    3      1      2      INA01
.ENDS
*
* chip model
.SUBCKT INA01   DIEOUT  DIEIN   DIEGND

RBIAS1   Q2E      14      155  
RBIAS2   Q3E      14       67  
RE2      Q3E      15       25  
RF1      DIEIN    14     1500  
RF2      Q1C   DIEOUT     380  
LP1      Q1E   DIEGND   0.20NH
LP2      15    DIEGND   0.20NH
CP1      Q1E   DIEGND   0.35PF
CP2      15    DIEGND   0.50PF
C3     DIEOUT  DIEGND   0.25PF
C4       Q1C   DIEGND   0.036PF
C5     DIEIN   DIEGND   0.086PF
C13      Q2E   DIEGND   0.023PF
C14      14    DIEGND   0.036PF
C16     Q3E    DIEGND   0.029PF
XNA01Q1  Q1C   DIEIN   Q1E   DIEGND    A01Q1
XNA01Q2  DIEOUT  Q1C    Q2E   DIEGND    A01Q2
XNA01Q3  DIEOUT  Q2E    Q3E   DIEGND    A01Q3
.ENDS
* Q1 distributed base model
.SUBCKT A01Q1   Q1C     Q1B     Q1E    Q1S
RC1      C1      5    10    
RC2      5      Q1C   10    
RB1     Q1B     7     1.1   
RB2     7      8     3.2  
RB3     8      B1     2.7   
RE      E1      Q1E    0.24  
Q1      C1      B1     E1      QINA    420
DCD1    Q1B     C1     DMOD    572
DCD2    7      C1     DMOD    680
DCD3    8      C1     DMOD    340
DCS     Q1S     5     DMOD    2475
.ENDS
* Q2 distributed base model
.SUBCKT A01Q2   Q2C     Q2B     Q2E    Q2S
RC1      C1      5    10     
RC2      5      Q2C   10     
RB1     Q2B     7     1.1    
RB2      7      8     3.2    
RB3     8      B1     2.7   
RE      E1      Q2E    0.28  
Q1      C1      B1     E1      QINA    420
DCD1    Q2B     C1     DMOD    570
DCD2    7       C1     DMOD    680
DCD3    8      C1     DMOD    340
DCS    Q2S      5     DMOD    2475
.ENDS
* Q3 distributed base model
.SUBCKT A01Q3   Q3C     Q3B     Q3E    Q3S
RC1      C1      5     9     
RC2      5      Q3C    8     
RB1     Q3B     7     1.2    
RB2      7      8     3.7    
RB3      8      B1     3.1   
RE      E1      Q3E    0.28  
Q1      C1      B1     E1      QINA    360
DCD1    Q3B     C1     DMOD    502
DCD2    7      C1     DMOD    583
DCD3    8      C1     DMOD    292
DCS     Q3S     5     DMOD2    2409
.ENDS
.MODEL  DMOD    D(IS=1E-25, CJO=2.4E-16, VJ=.76, M=.53, BV=45)
.MODEL  DMOD2    D(IS=1E-25, CJO=1.2E-16, VJ=.80, M=.50, BV=45, RS=1.0E+06)
.MODEL  QINA    NPN (BF=100, BR=2.5, IS=1.7E-18, VA=20, TF=12PS,
+               CJE=2.4E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.3E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)